US08754100B2
Synthesis of methyl 2-chloro-4-[cyclopropylmethyl(2,2,2-trifluoroacetyl)amino]benzoate
Trifluoroacetic anhydride (1.18 ml) was added to a solution of methyl 2-chloro-4-(cyclopropylmethylamino)benzoate (1.00 g) and pyridine (686 μl) in dichloromethane (40 ml). The reaction mixture was stirred at room temperature for 1 hour. The mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (1.42 g).

reactant | Trifluoroacetic anhydride | 1.18 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | methyl 2-chloro-4-(cyclopropylmethylamino)benzoate | 1.00 g | ClC1=C(C(=O)OC)C=CC(=C1)NCC1CC1 | C12H14ClNO2
reactant | pyridine | 686 μl | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | methyl 2-chloro-4-[cyclopropylmethyl(2,2,2-trifluoroacetyl)amino]benzoate | 1.42 g | ClC1=C(C(=O)OC)C=CC(=C1)N(C(C(F)(F)F)=O)CC1CC1 | C14H13ClF3NO3
